Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-3.98384354767
[H:5].[O:1][O:2][C:3]#[C:4][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-3.01326305874
[H:1][O:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-2.16814054917
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],0.900869171579
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-2.0413934238
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:6],1.85557161651
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[C:7]([H:8])#[C:9][O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],1.51280427992
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5],3.0305456828400006
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.52263249809
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.10529067545
[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],-3.58817804809
[C:1]([H:3])([H:4])=[C:5]=[C:6]([H:7])[H:8].[C:2]>>[C:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8],-1.06571472822
[O:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-2.44502544101
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.48631821935
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.1842044
[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[O:7][C:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:9]=[C:8]([O:7][C:5]=[C:4]([H:6])[H:11])[H:10],0.19178198371
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1].[O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.72637159148
[C:10]([H:11])#[C:12][H:13].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-1.44989907447
[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.13360270352
[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-5.64518189388
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],4.14863394827
[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.9789248337
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10],-3.96125492686
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[O:7][H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.34453168201
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[O:10]>>[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9][O:10]1,0.991505799529
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9].[H:1],3.99227853332
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[H:1][C:2][C:3]#[C:4][C:6][C:7][H:8].[H:5],4.7739434653
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],3.23050999994
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],4.5991093167
